### PR TITLE
Add ∣m+n∣n⇒∣m to Data.Nat.Divisiblity

### PR DESCRIPTION
**Pull request by Taneb**
Also slightly simplify the proof of `∣m+n∣m⇒∣n`, which is closely related

### CODE REVIEW

File: src/Data/Nat/Divisibility.agda [hunk 1]
```diff
@@ -190,13 +190,21 @@ n∣n = ∣-refl
...
     (p ∸ q) * d   ∎
     where open ∣-Reasoning
 
+∣m+n∣n⇒∣m : d ∣ m + n → d ∣ n → d ∣ m
+∣m+n∣n⇒∣m {d} {m} {n} (divides p m*n≡p*d) (divides-refl q) =
+  divides (p ∸ q) $ begin-equality
+    m             ≡⟨ m+n∸n≡m m n ⟨
+    m + n ∸ n     ≡⟨ cong (_∸ q * d) m*n≡p*d ⟩
+    p * d ∸ q * d ≡⟨ *-distribʳ-∸ d p q ⟨
+    (p ∸ q) * d   ∎
```
Comment (gallais) [inline src/Data/Nat/Divisibility.agda]: Based on the other proof, I presume that this is a typo on the variable name.

```suggestion
∣m+n∣n⇒∣m {d} {m} {n} (divides p m+n≡p*d) (divides-refl q) =
  divides (p ∸ q) $ begin-equality
    m             ≡⟨ m+n∸n≡m m n ⟨
    m + n ∸ n     ≡⟨ cong (_∸ q * d) m+n≡p*d ⟩
    p * d ∸ q * d ≡⟨ *-distribʳ-∸ d p q ⟨
    (p ∸ q) * d   ∎
```

Also, why prove it by going back to the core argument instead of invoking `∣m+n∣m⇒∣n` and
the fact `_+_` is commutative?

**Review by gallais — CHANGES_REQUESTED** [review]

File: src/Data/Nat/Divisibility.agda (hunk 1 above)
Comment (Taneb) [reply src/Data/Nat/Divisibility.agda]: > Also, why prove it by going back to the core argument instead of invoking `∣m+n∣m⇒∣n` and
the fact `_+_` is commutative?

I felt like this new proof is the more natural variant (the other already uses +-comm in its proof) and I don't like using subst if I can help it

**Review by gallais — APPROVED** [review]

**Review by JacquesCarette — APPROVED** [review]
